US05159070
0.78 g of dicyclohexylcarbodiimide was added to a solution of 2.9 g of 2-(2-tritylamino-4-thiazolyl)-2-methoxyimino-acetic acid syn isomer in 30 ml of dry methylene chloride and the mixture was stirred for an hour at room temperature and was then vacuum filtered to remove dicyclohexyl urea formed. The filtrate was cooled to -10° C. and a solution of 1.01 g of pure 7-amino-cephalosporanic acid in 13 ml of methylene chloride and 0.9 ml of triethylamine was added. The temperature returned to room temperature and 1 ml of acetic acid was added thereto. The mixture was vacuum filtered and the filtrate was washed with aqueous hydrochloric acid, dried and concentrate to dryness. The residue was taken up in 10 ml of dioxane and 1 ml of water and 3 ml of a saturated sodium bicarbonate aqueous solution were added thereto. The mixture was stirred and vacuum filtered and the filtrate was washed and evaporated to dryness. The residue was taken up in methylene chloride and the solution was washed with 10 ml of water and 5 ml of N hydrochloric acid. The mixture was decanted and the organic phase was washed with water, dried and effloresced with ether to obtain 1.747 g of raw product. The latter was dissolved in ethyl acetate and was crystallized by addition of ether to obtain 1.255 g of pure 3-acetoxymethyl-7-[2-(2-tritylamino-4-thiazolyl)-2-methoxyiminoacetamido]-ceph-3-eme-4-carboxylic acid in the syn configuration. Yield 48.4%.

reactant | dicyclohexylcarbodiimide | 0.78 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 2-(2-tritylamino-4-thiazolyl)-2-methoxyimino-acetic acid | 2.9 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)O)=NOC | C25H21N3O3S
reactant | 7-amino-cephalosporanic acid | 1.01 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 13 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.9 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-acetoxymethyl-7-[2-(2-tritylamino-4-thiazolyl)-2-methoxyiminoacetamido]-ceph-3-eme-4-carboxylic acid | 1.255 g, Yield 48.4% | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=NOC)C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O | C35H31N5O7S2
